US08236976B2
Preparation of (3-Butyl-oxiranyl)-(4-trifluoromethyl-phenyl)-methanol (20)
The product was prepared by General procedure T using 98 mg (0.55 mmol) Cy2BH, 64 μL (0.55 mmol) 1-hexyne, 0.78 mL (1.55 mmol, 2.0 M in hexanes) Et2Zn, 4.8 mg (0.02 mmol) (−)-MIB, 68 μL (0.50 mmol) p-trifluoromethylbenzaldehyde, 100 μL (0.10 mmol, 1.0 M in hexanes) Ti(OiPr)4, and 21 μL (0.10 mmol) (+)-DIPT. The crude product was purified by column chromatography (5% ethyl acetate in hexanes) to afford the title compound in 76% yield (104 mg, 0.38 mmol). threo-diastereomer: Colorless oil. [α]D20=−22.4 (c=0.25, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.81 (t, 3H, J=7.1 Hz), 1.19-1.35 (m, 3H), 1.45-1.53 (m, 3H), 2.37 (br d, 1H, J=3.7 Hz), 2.87 (dt, 1H, J=5.1, 1.8 Hz), 3.00 (dt, 1H, J=5.3, 1.3 Hz), 4.53 (br t, 1H), 7.46 (d, 2H, J=8.0 Hz), and 7.57 (d, 2H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.9, 22.4, 27.9, 31.1, 57.4, 61.8, 73.2, 125.56, 125.59, 126.4, and 144.2 ppm; IR (neat): 3432, 2960, 2931, 2860, 2352, 2326, 1621, 1469, 1456, 1417, 1380, 1326, and 1260 cm−1; HRMS-ESI m/z 255.1187 [(M−F)+; calcd for C14H17F2O2: 255.1197]. erythro-diastereomer: Colorless oil. [α]D20=−26.0 (c=0.80, CHCl3); 1H NMR (CDCl3, 500 MHz): δ 0.77 (t, 3H, J=7.2 Hz), 1.15-1.32 (m, 3H), 1.38-1.52 (m, 3H), 2.27 (br s, 1H), 2.91 (t, 1H, J=2.6 Hz), 3.04 (dt, 1H, J=5.8, 2.0 Hz), 4.87 (br s, 1H), 7.44 (d, 2H, J=8.0 Hz), and 7.57 (d, 2H, J=8.0 Hz) ppm; 13C{1H} NMR (CDCl3, 125 MHz): δ 13.8, 22.3, 28.0, 31.0, 55.2, 61.0, 70.5, 125.49, 125.52, 126.5, and 143.7 ppm; IR (neat): 3425, 3013, 2966, 2932, 2861, 1619, 1457, 1414, 1384, 1326, and 1261 cm−1; HRMS-ESI m/z 255.1187 [(M−F)+; calcd for C14H17F2O2: 255.1197].

reactant | Cy2BH | 0.55 mmol, 98 mg | B(C1CCCCC1)C1CCCCC1 | C12H23B
reactant | 1-hexyne | 0.55 mmol, 64 μL | C#CCCCC | C6H10
reactant | Et2Zn | 1.55 mmol, 2.0 M, 0.78 mL | [Zn](CC)CC
reactant | p-trifluoromethylbenzaldehyde | 0.50 mmol, 68 μL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | (+)-DIPT | 0.10 mmol, 21 μL | CC(C)OC(=O)[C@@H]([C@H](C(=O)OC(C)C)O)O | C10H18O6
catalyst | Ti(OiPr)4 | 0.10 mmol, 1.0 M, 100 μL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (3-Butyl-oxiranyl)-(4-trifluoromethyl-phenyl)-methanol | 76% yield | C(CCC)C1C(O1)C(O)C1=CC=C(C=C1)C(F)(F)F | C14H17F3O2
